US04775671
A mixture of 6.32 g (20 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide, 5.68 g (14 mmol) of 2,4-bis(p-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulphide and 100 ml of toluene is heated to boiling under reflux for 4.5 hours. The solution obtained is then evaporated in vacuo and the residue is chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from methylene chloride/ethyl acetate there is obtained (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile of melting point 237°-238°.

reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide | 20 mmol, 6.32 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N)CCC1)=O | C15H13ClN4O2
reactant | 2,4-bis(p-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulphide | 14 mmol, 5.68 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C#N)CCC1)=O | C15H11ClN4O
